US07692005B2
6-(3-Benzylamino-benzoyl)-3-[1-[4-(4-methyl-piperazin-1-yl)-phenylamino]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A small screw cap test tube was charged with 6-(3-Benzylamino-benzoyl)-3-[1-hydroxy-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one (prepared below, 0.021 g, 0.056 mmol) and THF (1 mL). To the resulting solution was added 4-(4-Methyl-piperazin-1-yl)-phenylamine (10.7 mg, 0.056 mmol), and the mixture was stirred for 24 h at 65° C. The reaction mixture was cooled to room temperature. The yellow solid was dissolved in 5 mL of a solvent mixture containing 98% EtOAc/2% i-prOH and washed with water (2×5 mL). The organic layers were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude residue was chromatographed over silica (95/5 chloroform/Hexanes w/0.5% NEt3) to afford the title compound in 51% yield (15.5 mg, 0.028 mmol).

reactant | 6-(3-Benzylamino-benzoyl)-3-[1-hydroxy-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 0.056 mmol, 0.021 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)C2=CC=C3/C(/C(NC3=C2)=O)=C/O)C=CC1 | C23H18N2O3
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.056 mmol, 10.7 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(3-Benzylamino-benzoyl)-3-[1-[4-(4-methyl-piperazin-1-yl)-phenylamino]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 51% yield | C(C1=CC=CC=C1)NC=1C=C(C(=O)C2=CC=C3/C(/C(NC3=C2)=O)=C/NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C34H33N5O2
